US08461160B2
To a solution of 5-hydroxy-pyridine-2-carboxylic acid methyl ester (200 mg) in DMF (2.0 ml) was added at 22° C. NaH (55% in oil, 64 mg) and stirring was continued until gas evolution ceased. The suspension was cooled to 0° C. and treated with trifluoromethyl trifluoromethanesulphonate (728 mg) and stirring was continued at 22° C. for 2 h. The mixture was partitioned between saturated NaHCO3 and ethyl acetate and the organic layer was dried and evaporated. The residue was chromatographed on silica using n-heptane/ethyl acetate (3:1) to give 5-(2,2,2-trifluoro-ethoxy)-pyridine-2-carboxylic acid methyl ester (216 mg) as a white solid. MS (ESI): m/z=236.3 [ M+H]+.

reactant | 5-hydroxy-pyridine-2-carboxylic acid methyl ester | 200 mg | COC(=O)C1=NC=C(C=C1)O | C7H7NO3
reactant | NaH | 64 mg | [H-].[Na+]
reactant | trifluoromethyl trifluoromethanesulphonate | 728 mg | FC(S(=O)(=O)OC(F)(F)F)(F)F | C2F6O3S
reactant | DMF | 2.0 ml | CN(C)C=O | C3H7NO
product | 5-(2,2,2-trifluoro-ethoxy)-pyridine-2-carboxylic acid methyl ester | 216 mg | COC(=O)C1=NC=C(C=C1)OCC(F)(F)F | C9H8F3NO3
